US07223788B2
N,N-Diethyl-N′-[(R)-1-(4-nitrophenyl)pyrrolidin-3-yl]ethane-1,2-diamine
tert-Butyl (2-diethylaminoethyl)-[(R)-1-(4-nitrophenyl)pyrrolidin-3-yl]carbamate (7.9 g) was reacted with trifluoroacetic acid by method G. This resulted in the product with the molecular weight of 306.41 (C16H26N4O2); MS (ESI): 307 (M+H+).

reactant | tert-Butyl (2-diethylaminoethyl)-[(R)-1-(4-nitrophenyl)pyrrolidin-3-yl]carbamate | 7.9 g | C(C)N(CCN(C(OC(C)(C)C)=O)[C@H]1CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])CC | C21H34N4O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | N,N-Diethyl-N′-[(R)-1-(4-nitrophenyl)pyrrolidin-3-yl]ethane-1,2-diamine | C(C)N(CCN[C@H]1CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])CC | C16H26N4O2
